US05519015
Allyl 5-amino-2-thiophenecarboxylate
To a solution of allyl 5-nitro-2-thiophenecarboxylate (3.2 g, 15 mmol) in concentrated hydrogen chloride (35 ml) was added, under cooling, SnCl2.H2O (10.1 g, 45 mmol). The mixture was stirred for 3.5 hours at ambient temperature, diluted with ethyl acetate and basified to pH 10 with 5N NaOH. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel using a mixture of ethyl acetate and petroleum ether (3:7) to give the title compound as a yellow oil (1.94 g, 72%).

reactant | allyl 5-nitro-2-thiophenecarboxylate | 15 mmol, 3.2 g | [N+](=O)([O-])C1=CC=C(S1)C(=O)OCC=C | C8H7NO4S
reactant | SnCl2.H2O | 45 mmol, 10.1 g | Cl[Sn]Cl.O
solvent | hydrogen chloride | 35 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaOH | 5N | [OH-].[Na+]
product | Allyl 5-amino-2-thiophenecarboxylate | 1.94 g, 72% | NC1=CC=C(S1)C(=O)OCC=C | C8H9NO2S
